US06465472B1
2-(Pyrrolidin-1-yl)methyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline-3-oxide
To a suspension of 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline-3-oxide (200 mg, 0.55 mmol), in MeOH (5 mL), was added pyrrolidine (0.4 mL). The mixture was stirred at 65° C. for 1.5 h. DMF (6 mL) was added and the heating was continued at 60° C. for 15 h. After cooling, the separated solid was collected by filtration, washed with hexane, and air dried to give the title compound as off white solid (175 mg). The crude product was purified by column chromatography on silica gel (CH2Cl2:MeOH 95:5); mp 194-202° C. 1H NMR (CDCl3) 7.39 (s, 1H), 6.90-7.06 (m, 4H), 6.78 (s 1H), 6.11 (s, 2H), 6.08 (s, 2H), 4.25 (s, 2H), 2.87 (bs, 4H), 1.91 (bs, 4H).

reactant | 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline-3-oxide | 0.55 mmol, 200 mg | ClCC1=NC2=CC3=C(C=C2C(=[N+]1[O-])C1=CC2=C(C=C1)OCO2)OCO3 | C17H11ClN2O5
reactant | pyrrolidine | 0.4 mL | N1CCCC1 | C4H9N
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(Pyrrolidin-1-yl)methyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline-3-oxide | N1(CCCC1)CC1=NC2=CC3=C(C=C2C(=[N+]1[O-])C1=CC2=C(C=C1)OCO2)OCO3 | C21H19N3O5
